US04362740
5-Nitro-4',5'-dihydrospiro[benzo[b]thiophene-2(3H),3'(2'H)-furan]-3,2'-dione (1.0 g) was hydrogenated in the presence of 5% Pd-C (0.35 g) in acetic acid (100 ml) at room temperature under usual pressure of H2 gas with stirring. The catalyst was filtered off and the filtrate was evaporated in vacuo. The resulting residue was recrystallized from benzene to give 5-amino-4',5'-dihydrospiro[benzo[b]thiophene-2(3H),3'(2'H)-furan]-3,2'-dione as yellow needles, mp 187°-190° C. Anal. Calcd. for C11H9NO3S: C, 56.15; H, 3.86; N, 5.96. Found: C, 56.61; H, 3.73; N, 5.96.

reactant | 5-Nitro-4',5'-dihydrospiro[benzo[b]thiophene-2(3H),3'(2'H)-furan]-3,2'-dione | 1.0 g | [N+](=O)([O-])C1=CC2=C(SC3(C(OCC3)=O)C2=O)C=C1 | C11H7NO5S
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
catalyst | Pd-C | 0.35 g | [Pd] | Pd
product | 5-amino-4',5'-dihydrospiro[benzo[b]thiophene-2(3H),3'(2'H)-furan]-3,2'-dione | NC1=CC2=C(SC3(C(OCC3)=O)C2=O)C=C1 | C11H9NO3S
